US05300506
To a solution of 2.7 g (13.6 mmol, 1.0 equiv.) of 5-cyano-3-(dimethylamino)methyl-1H-indole in 125 mL of THF at 0° C. was added 1.3 mL (20.3 mmol, 1.5 equiv.) of methyl iodide dropwise. After five minutes the solution was allowed to warm to room temperature and stirred for one hour. The resulting precipitate was filtered and dried in vacuo to yield 4.4 g (96%) of N,N,N-trimethyl-1-(5-cyano-1H-indol-3-yl)methanaminium iodide, pure by 1H NMR analysis.

reactant | 5-cyano-3-(dimethylamino)methyl-1H-indole | 13.6 mmol, 2.7 g, 1.0 equiv. | C(#N)C=1C=C2C(=CNC2=CC1)CN(C)C | C12H13N3
reactant | methyl iodide | 20.3 mmol, 1.3 mL, 1.5 equiv. | CI | CH3I
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | N,N,N-trimethyl-1-(5-cyano-1H-indol-3-yl)methanaminium iodide | 4.4 g, 96% | [I-].C[N+](CC1=CNC2=CC=C(C=C12)C#N)(C)C | InChI=1S/C13H16N3.HI/c1-16(2,3)9-11-8-15-13-5-4-10(7-14)6-12(11)13;/h4-6,8,15H,9H2,1-3H3;1H/q+1;/p-1
